*$
* OPA1678
*****************************************************************************
* (C) Copyright 2019 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: OPA1678
* Date: 31JAN2019
* Model Type: Generic (suitable for all analysis types)
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SBOS855B –FEBRUARY 2017–REVISED JUNE 2018
* Created with Green-Williams-Lis Op Amp Macro-model Architecture
*
* Model Version: Final 1.3
*
*****************************************************************************
* Updates:
* Final 1.3
* Updated claw, Added Vos drift , Simplified FEMT_OPA1678 subckt.
*
* Final 1.2 
* Release to Web.
*
*****************************************************************************
* Model Usage Notes:
* 1. The following parameters are modeled: 
* 		OPEN-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Aol)
* 		UNITY GAIN BANDWIDTH (GBW)
* 		INPUT COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR)
* 		POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR)
* 		DIFFERENTIAL INPUT IMPEDANCE (Zid)
* 		COMMON-MODE INPUT IMPEDANCE (Zic)
* 		OPEN-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zo)
* 		OUTPUT CURRENT THROUGH THE SUPPLY (Iout)
* 		INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en)
* 		INPUT CURRENT NOISE DENSITY VS. FREQUENCY (in)
* 		OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vo)
* 		SHORT-CIRCUIT OUTPUT CURRENT (Isc)
* 		QUIESCENT CURRENT (Iq)
* 		SETTLING TIME VS. CAPACITIVE LOAD (ts)
* 		SLEW RATE (SR)
* 		SMALL SIGNAL OVERSHOOT VS. CAPACITIVE LOAD
* 		LARGE SIGNAL RESPONSE
* 		OVERLOAD RECOVERY TIME (tor)
* 		INPUT BIAS CURRENT (Ib)
* 		INPUT OFFSET CURRENT (Ios)
* 		INPUT OFFSET VOLTAGE (Vos) 
* 		INPUT OFFSET VOLTAGE VS. TEMPERATURE (Vos Drift)
* 		INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
* 		INPUT OFFSET VOLTAGE VS. INPUT COMMON-MODE VOLTAGE (Vos vs. Vcm)
* 		INPUT/OUTPUT ESD CELLS (ESDin, ESDout)
***************************************************************************** 
.subckt OPA1678 IN+ IN- VCC VEE OUT
******************************************************
* MODEL DEFINITIONS:
.model BB_SW VSWITCH(Ron=50 Roff=1e12 Von=700e-3 Voff=0)
.model ESD_SW VSWITCH(Ron=50 Roff=1e12 Von=500e-3 Voff=100e-3)
.model OL_SW VSWITCH(Ron=1e-3 Roff=1e12 Von=900e-3 Voff=800e-3)
.model OR_SW VSWITCH(Ron=10e-3 Roff=1e12 Von=10e-3 Voff=0)
.model R_NOISELESS RES(T_ABS=-273.15)
******************************************************
XV_OS N032 N044 VOS_DRIFT_OPA1678
R1 N036 N033 R_NOISELESS 1e-3 
R2 N053 ESDn R_NOISELESS 1e-3 
R3 N071 0 R_NOISELESS 1e12 
C1 N071 0 1
R4 VCC_B N070 R_NOISELESS 1e-3 
C2 N070 0 1e-15
C3 N072 0 1e-15
R5 N072 VEE_B R_NOISELESS 1e-3 
G1 N036 N037 N005 N004 1e-3
R6 MID N049 R_NOISELESS 1e12 
VCM_MIN N052 VEE_B 0.5
R7 N052 MID R_NOISELESS 1e12 
VCM_MAX N049 VCC_B -2
XVCM_CLAMP N037 MID N045 MID N049 N052 VCCS_EXT_LIM_OPA1678
R8 N045 MID R_NOISELESS 1 
C4 N046 MID 1e-15
R9 N045 N046 R_NOISELESS 1e-3 
V4 N068 OUT 0
R10 MID N054 R_NOISELESS 1e12 
R11 MID N055 R_NOISELESS 1e12 
XIQp VIMON MID VCC MID VCCS_LIM_IQ_OPA1678
XIQn MID VIMON MID VEE VCCS_LIM_IQ_OPA1678
R12 VCC_B N009 R_NOISELESS 1e3 
R13 N022 VEE_B R_NOISELESS 1e3 
XCLAWp VIMON MID N009 VCC_B VCCS_LIM_CLAWp_OPA1678
XCLAWn MID VIMON VEE_B N022 VCCS_LIM_CLAWn_OPA1678
R14 VEE_CLP MID R_NOISELESS 1e3 
R15 MID VCC_CLP R_NOISELESS 1e3 
R16 N010 N009 R_NOISELESS 1e-3 
R17 N023 N022 R_NOISELESS 1e-3 
C5 MID N010 1e-15
C6 N023 MID 1e-15
R18 VOUT_S N055 R_NOISELESS 100 
C7 VOUT_S MID 1e-12
G2 MID VCC_CLP N010 MID 1e-3
G3 MID VEE_CLP N023 MID 1e-3
XCL_AMP N007 N034 VIMON MID N013 N020 CLAMP_AMP_LO_OPA1678
V_ISCp N007 MID 50
V_ISCn N034 MID -37
XOL_SENSE_OPA1678 MID N042 N041 N051 OL_SENSE_OPA1678
R19 N034 MID R_NOISELESS 1e12 
R20 N020 MID R_NOISELESS 1 
C8 N021 MID 1e-15
R21 MID N013 R_NOISELESS 1 
R22 MID N007 R_NOISELESS 1e12 
C9 MID N014 1e-15
XCLAW_AMP VCC_CLP VEE_CLP VOUT_S MID N011 N018 CLAMP_AMP_LO_OPA1678
R23 VEE_CLP MID R_NOISELESS 1e12 
R24 N018 MID R_NOISELESS 1 
C10 N019 MID 1e-15
R25 MID N011 R_NOISELESS 1 
R26 MID VCC_CLP R_NOISELESS 1e12 
C11 MID N012 1e-15
XCL_SRC N014 N021 CL_CLAMP MID VCCS_LIM_4_OPA1678
XCLAW_SRC N012 N019 CLAW_CLAMP MID VCCS_LIM_3_OPA1678
R27 N011 N012 R_NOISELESS 1e-3 
R28 N019 N018 R_NOISELESS 1e-3 
R29 N013 N014 R_NOISELESS 1e-3 
R30 N021 N020 R_NOISELESS 1e-3 
R31 N042 MID R_NOISELESS 1 
R32 N042 SW_OL R_NOISELESS 100 
C12 SW_OL MID 1e-9
R33 VIMON N054 R_NOISELESS 100 
C13 VIMON MID 1e-12
C_DIFF ESDp ESDn 6e-12
C_CMn ESDn MID 2e-12
C_CMp MID ESDp 2e-12
I_Q VCC VEE 2e-3
I_B N032 MID 10e-12
I_OS ESDn MID 1e-15
R34 IN+ ESDp R_NOISELESS 250 
R35 IN- ESDn R_NOISELESS 250 
R36 N024 MID R_NOISELESS 1 
R37 N035 MID R_NOISELESS 1e12 
R38 MID N016 R_NOISELESS 1 
R39 MID N008 R_NOISELESS 1e12 
XGR_AMP N008 N035 N015 MID N016 N024 CLAMP_AMP_HI_OPA1678
XGR_SRC N017 N025 CLAMP MID VCCS_LIM_GR_OPA1678
C17 MID N017 1e-15
C18 N025 MID 1e-15
V_GRn N035 MID -113
V_GRp N008 MID 113
R40 N016 N017 R_NOISELESS 1e-3 
R41 N025 N024 R_NOISELESS 1e-3 
R42 VSENSE N015 R_NOISELESS 1e-3 
C19 MID N015 1e-15
R43 MID VSENSE R_NOISELESS 1e3 
G5 N032 N033 N002 MID 1e-3
G8 MID CLAW_CLAMP N066 MID 1e-3
R45 MID CLAW_CLAMP R_NOISELESS 1e3 
R47 N058 VCLP R_NOISELESS 100 
C24 MID VCLP 1e-12
E4 N058 MID CL_CLAMP MID 1
E5 N055 MID OUT MID 1
H1 N054 MID V4 1e3
S1 N057 N056 SW_OL MID OL_SW
R52 MID ESDp R_NOISELESS 1e12 
R53 ESDn MID R_NOISELESS 1e12 
R58 N033 N032 R_NOISELESS 1e3 
R59 N070 N071 R_NOISELESS 1e6 
R60 N071 N072 R_NOISELESS 1e6 
R67 N037 N036 R_NOISELESS 1e3 
G15 MID VSENSE CLAMP MID 1e-3
V_ORp N031 VCLP 8.8
V_ORn N026 VCLP -8.8
V11 N028 N027 0
V12 N029 N030 0
H3 N040 MID V12 10
S6 VCC OUT OUT VCC ESD_SW
S7 OUT VEE VEE OUT ESD_SW
E1 N063 0 N071 0 1
S8 N029 CLAMP CLAMP N029 OR_SW
S9 CLAMP N028 N028 CLAMP OR_SW
Xi_nn ESDn MID FEMT_OPA1678
Xi_np N044 MID FEMT_OPA1678
XVCCS_LIMIT_1 N046 N053 MID N047 VCCS_LIM_1_OPA1678
XVCCS_LIMIT_2 N047 MID MID CLAMP VCCS_LIM_2_OPA1678
R44 N047 MID R_NOISELESS 1e6 
R68 CLAMP MID R_NOISELESS 1e6 
G7 MID N066 N065 MID 1e-6
R69 N066 MID R_NOISELESS 1e6 
H2 N050 MID V11 -10
Xe_n N044 N043 VNSE_OPA1678
R51 N043 ESDp R_NOISELESS 1e-3 
R71 N041 N040 R_NOISELESS 100 
R72 N051 N050 R_NOISELESS 100 
C27 N041 MID 1e-12
C28 N051 MID 1e-12
XVCCS_LIM_ZO_OPA1678 N062 MID MID N067 VCCS_LIM_ZO_OPA1678
Rdc3 N038 MID R_NOISELESS 1 
R92 N038 N039 R_NOISELESS 1e4 
R93 N039 MID R_NOISELESS 4.286e3 
G24 MID N048 N039 MID 3.3333
C33 N039 N038 8.842e-13
R94 N048 MID R_NOISELESS 1 
G25 MID N038 VSENSE MID 1
C36 CLAMP MID 1.806e-8
G4 MID CL_CLAMP CLAW_CLAMP MID 1e-3
R62 MID CL_CLAMP R_NOISELESS 1e3 
R46 N002 MID R_NOISELESS 2e3 
R48 N002 N001 R_NOISELESS 1e8 
G9 MID N001 ESDp MID 20e-3
Rsrc2 N001 MID R_NOISELESS 1 
C16 N002 N001 6.366e-12
C21 N004 N003 3.98e-10
R49 N004 MID R_NOISELESS 22.86 
R50 N004 N003 R_NOISELESS 1e8 
G10 MID N003 VEE_B MID 0.4375
Rsrc4 N003 MID R_NOISELESS 1 
C14 N005 N006 3.98e-10
R54 N005 MID R_NOISELESS 22.86 
R55 N005 N006 R_NOISELESS 1e8 
G6 MID N006 VCC_B MID 0.4375
Rsrc1 N006 MID R_NOISELESS 1 
Rx N068 N067 R_NOISELESS 1.45e5 
Rdummy N068 MID R_NOISELESS 1.45e4 
G11 MID N056 CL_CLAMP N068 88.5
Rdc1 N056 MID R_NOISELESS 1 
R56 N056 N057 R_NOISELESS 1e8 
R57 N057 MID R_NOISELESS 2.83e6 
G12 MID N059 N057 MID 36.39
C15 N057 N056 2.14e-10
R61 N059 MID R_NOISELESS 1 
R63 N059 N060 R_NOISELESS 9e8 
R64 N060 N069 R_NOISELESS 1e8 
C23 MID N069 3.18e-18
Gb2 MID N061 N060 MID 1
R65 N061 MID R_NOISELESS 1 
R66 N061 N062 R_NOISELESS 1e8 
R70 N062 MID R_NOISELESS 502.5e3 
C25 N062 N061 3.18e-18
R73 N067 MID R_NOISELESS 1 
G13 MID N027 N026 MID 1
G14 MID N030 N031 MID 1
R74 MID N027 R_NOISELESS 1 
R75 MID N030 R_NOISELESS 1 
S2 VCC ESDn ESDn VCC ESD_SW
S3 VCC ESDp ESDp VCC ESD_SW
S4 ESDn VEE VEE ESDn ESD_SW
S5 ESDp VEE VEE ESDp ESD_SW
S10 ESDp ESDn ESDn ESDp BB_SW
S11 ESDn ESDp ESDp ESDn BB_SW
G16 0 VCC_B VCC 0 1
G17 0 VEE_B VEE 0 1
R76 VCC_B 0 R_NOISELESS 1 
R77 VEE_B 0 R_NOISELESS 1 
G18 MID N064 N048 MID 1e-6
R79 N064 MID R_NOISELESS 1e6 
G19 MID N065 N064 MID 1e-6
R80 N065 MID R_NOISELESS 1e6 
C26 N064 MID 8.842e-16
C29 N065 MID 8.842e-16
C30 N066 MID 5.305e-16
RMID N063 MID R_NOISELESS 1e-2
.ends OPA1678
*
.subckt VOS_DRIFT_OPA1678 VOS+ VOS-
.param DC = 496.4e-6
.param POL = 1
.param DRIFT = 2E-06
E1 VOS+ VOS- VALUE={DC+POL*DRIFT*(TEMP-27)}
.ends
*
.subckt CLAMP_AMP_HI_OPA1678 VC+ VC- VIN COM VO+ VO-
.param G=10
GVo+ COM Vo+ Value = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVo- COM Vo- Value = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ends CLAMP_AMP_HI_OPA1678
*
.subckt OL_SENSE_OPA1678 1   2  3  4
GSW+ 1 2 Value = {IF((V(3,1)>10e-3 | V(4,1)>10e-3),1,0)}
.ends OL_SENSE_OPA1678
*
.subckt VCCS_EXT_LIM_OPA1678 VIN+ VIN- IOUT- IOUT+ VP+ VP-
.param Gain = 1
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ends VCCS_EXT_LIM_OPA1678
*
.subckt VCCS_LIM_3_OPA1678 VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 0.226
.param Ineg = -0.226
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_3_OPA1678
*
.subckt VCCS_LIM_4_OPA1678 VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 0.452
.param Ineg = -0.452
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_4_OPA1678
*
.subckt VCCS_LIM_CLAWp_OPA1678 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 0.8E-3)
+(30, 2.22e-3)
+(48, 3.93e-3)
+(49.6, 7.2e-3)
+(50.4, 1.8e-2)
.ends VCCS_LIM_CLAWp_OPA1678
*
.subckt VCCS_LIM_CLAWn_OPA1678 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 0.8E-3)
+(35.2, 3.41e-3)
+(36.8, 5.2e-3)
+(38, 1.8e-2)
.ends VCCS_LIM_CLAWn_OPA1678
*
.subckt VCCS_LIM_IQ_OPA1678 VC+ VC- IOUT+ IOUT-
.param Gain = 1e-3
G1 IOUT+ IOUT- VALUE={IF( (V(VC+,VC-)<=0),0,Gain*V(VC+,VC-) )}
.ends VCCS_LIM_IQ_OPA1678
*
.subckt VNSE_OPA1678 1 2
.param FLW=1
.param GLF=0.1048
.param RNV=18.0086
.model DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ends VNSE_OPA1678
*
.subckt CLAMP_AMP_LO_OPA1678 VC+ VC- VIN COM VO+ VO-
.param G=1
GVo+ COM Vo+ Value = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVo- COM Vo- Value = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ends CLAMP_AMP_LO_OPA1678
*
.subckt VCCS_LIM_GR_OPA1678 VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 0.326
.param Ineg = -0.326
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_GR_OPA1678
*
.subckt VCCS_LIM_1_OPA1678 VC+ VC- IOUT+ IOUT-
.param Gain = 1e-4
.param Ipos = .5
.param Ineg = -.5
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_1_OPA1678
*
.subckt VCCS_LIM_2_OPA1678 VC+ VC- IOUT+ IOUT-
.param Gain = 20.36e-3
.param Ipos = 0.163
.param Ineg = -0.163
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_2_OPA1678
*
.subckt VCCS_LIM_ZO_OPA1678 VC+ VC- IOUT+ IOUT-
.param Gain = 200
.param Ipos = 14.5e3
.param Ineg = -14.5e3
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_ZO_OPA1678
*
.subckt FEMT_OPA1678 1 2
.param NVRF=3
.param RNVF={1.184*PWR(NVRF,2)}
E1 3 0 5 0 10
R1 5 0 {RNVF}
R2 5 0 {RNVF}
G1 1 2 3 0 1e-6
.ends FEMT_OPA1678
*
